US05211889
3,6-Diphenylcyclohexan-1,2-diol:
1,2-Epoxy-3,6-diphenylcyclohexane (32 mg, 0.13 mmol) was dissolved in acetone (10 mL). HClO4 (6%, 10 mL) was added and the mixture was stirred at room temperature for 24 hours. The reaction solution was neutralized with Na2CO3 and the reaction mixture was reduced to approximately half volume under reduced pressure. Extraction with CH2Cl2 and removal of the solvent yielded crude product (93% yield) as a white solid. Based upon the analyses of NMR spectra of crude and recrystallized product, reaction gave a single product. Recrystallization from hexane/CH2Cl2 gave pure product as a white crystalline solid: mp 134°-135° C.; IR (KBr) 3303, 3086, 3059, 3026, 2935, 2858, 1603, 1495, 1454, 1041, 760, 698 cm-1 ; 1H NMR (200 MHz, CDCl3) δ 7.20-7.60 (m, 10 H), 4.08 (t, J=9.8 Hz, 1 H), 3.95 (dd, J= 9.5, 5.5 Hz, 1 H), 3.56 (m, 1 H), 2.67 (ddd, J=11.7, 9.9, 4.3 Hz, 1 H), 1.65-2.39 (m, 6 H); 13C NMR (50 MHz, CDCl3) δ 142.3, 140.8, 129.7, 128.8, 128.4, 127.8, 126.9, 126.5, 76.8, 74.6, 50.6, 44.7, 29.9, 29.2; MS (EI) m/e (relative intensity) 268 (M+, 61.9), 250 (12.9), 237 (11.5), 219 (7.3), 146 (30.1), 131 (94.9), 117 55.4), 104 (100.0), 91 (73.6), 77 (15.3); HRMS calcd. for C18H20O2 m/e 268.1463, found m/e 268.1464.

reactant | 1,2-Epoxy-3,6-diphenylcyclohexane | 0.13 mmol, 32 mg | O1C2C1C(CCC2C2=CC=CC=C2)C2=CC=CC=C2 | C18H18O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | KBr | [K+].[Br-]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 3,6-Diphenylcyclohexan-1,2-diol | C1(=CC=CC=C1)C1C(C(C(CC1)C1=CC=CC=C1)O)O | C18H20O2
